US05166170
2-(2-Aminophenyl)-5-methoxy-2,3-dihydro-1H-indole
Sodium cyanoborohydride (19.30 g) was added portionwise to a solution of 20.50 g 2-(2-aminophenyl)-5-methoxy-1H-indole in 1500 ml acetic acid at 15° C. The resulting solution was stirred at room temperature for one day. The reaction mixture was diluted and made basic by addition of 50% NaOH in ice. The mixture was extracted with ethyl acetate, and the extracts were washed with saturated NaCl solution and dried (MgSO4). Concentration yielded 20.56 g solid. Purification of a 10 g portion by HPLC yielded 2.33 g solid, m.p. 94°-98° C. (dec.).

reactant | Sodium cyanoborohydride | 19.30 g | C(#N)[BH3-].[Na+]
reactant | 2-(2-aminophenyl)-5-methoxy-1H-indole | 20.50 g | NC1=C(C=CC=C1)C=1NC2=CC=C(C=C2C1)OC | C15H14N2O
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 1500 ml | C(C)(=O)O | C2H4O2
product | 2-(2-Aminophenyl)-5-methoxy-2,3-dihydro-1H-indole | 20.56 g | NC1=C(C=CC=C1)C1NC2=CC=C(C=C2C1)OC | C15H16N2O
